US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-5,7-diisopropoxyquinazolin-4(3H)-one
To a solution of 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-diisopropoxy-3H-quinazolin-4-one (0.39 g, 0.79 mmol) in DMF (10 mL) was added pyrrolidine (0.45 g, 6.37 mmol). The reaction mixture was stirred at room temperature for 4 hours. Then, water was added and product was extracted with ethyl acetate (2×200 mL). The combined organic phase was washed with water, then brine, and dried over anhydrous Na2SO4. Solvent was evaporated to give the title compound as a white solid. Yield: 0.32 g (83%). MP 65-68° C. 1H NMR (400 MHz, CDCl3): δ 9.05 (br s, 1H), 7.63 (s, 2H), 6.78 (s, 1H), 6.42 (s, 1H), 4.70 (m, 1H), 4.63 (m, 1H), 3.94 (m, 2H), 2.94 (m, 2H), 2.64 (br s, 4H), 2.38 (s, 6H), 1.84 (m, 4H), 1.46 (m, 3H), 1.42 (m, 3H). MS (ES) m/z: 480.29 (M+1).

reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-diisopropoxy-3H-quinazolin-4-one | 0.79 mmol, 0.39 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC(C)C)OC(C)C)C | C24H29BrN2O4
reactant | pyrrolidine | 6.37 mmol, 0.45 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-5,7-diisopropoxyquinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCN1CCCC1)C)C1=NC2=CC(=CC(=C2C(N1)=O)OC(C)C)OC(C)C | C28H37N3O4
